US04397750
3-aminopropanol reacted in similar manner to Example 2 with butyrolactone furnished a 78.6% yield of N-(3-hydroxypropyl)-2-pyrrolidinone, b.p. 160° C./3 torr.

reactant | 3-aminopropanol | NCCCO | C3H9NO
reactant | butyrolactone | C1(CCCO1)=O | C4H6O2
product | N-(3-hydroxypropyl)-2-pyrrolidinone | 78.6% yield | OCCCN1C(CCC1)=O | C7H13NO2
